US07635715B2
A solution of 2-(2-chlorophenyl)-2-methylpropanoic acid (2.55 g, 12.8 mmol) in thionyl chloride (50.0 mL, 685 mmol) was heated at 95° C. for 2 hours. The solution was concentrated in vacuo, azeotroped using toluene (2×100 mL), and dried in vacuo to give the crude acid chloride. A mixture of diethyl malonate (1.94 mL, 12.8 mmol) and MgCl2 (1.22 g, 12.8 mmol) in ACN (50 mL) was cooled to 0° C. TEA (3.75 mL, 27.0 mmol) was added slowly, and the mixture was stirred at 25° C. for 2 hours. A solution of the acid chloride in ACN (50 mL) was added, and the mixture was heated at 50° C. for 2 days. The solution was diluted with 10% HCl (aq) (200 mL) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with 2N NaOH (aq) (3×200 mL) and then with brine (75 mL). The organic layer was dried over MgSO4, concentrated, and purified by flash column chromatography (silica, 0-100% DCM in hexane) to give diethyl 2-(2-(2-chlorophenyl)-2-methylpropanoyl)malonate (3.25 g). MS m/e=341 (M+H)+.

reactant | 2-(2-chlorophenyl)-2-methylpropanoic acid | 12.8 mmol, 2.55 g | ClC1=C(C=CC=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | thionyl chloride | 685 mmol, 50.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl malonate | 12.8 mmol, 1.94 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 12.8 mmol, 1.22 g | [Mg+2].[Cl-].[Cl-]
solvent | ACN | 50 mL | C(C)#N | C2H3N
solvent | ACN | 50 mL | C(C)#N | C2H3N
solvent | HCl | 200 mL | Cl | ClH
product | diethyl 2-(2-(2-chlorophenyl)-2-methylpropanoyl)malonate | 3.25 g | ClC1=C(C=CC=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21ClO5
